US04012513
A solution of ethyl 5-benzyloxy-1-(7-chloroquinazolin-4-yl)-2-methylindol-3-ylacetate (1.5g) in glacial acetic acid (5ml.) was treated with a 50% w/v solution of hydrogen bromide in glacial acetic acid (5ml.). The resulting dark red solution was stirred at room temperature for 10 minutes and then neutralised by the addition to a mixture of saturated sodium acetate solution (50ml.) and water (150ml.). The mixture was extracted with ethyl acetate (3 × 50ml.) and the extracts washed successively with water (2 × 40ml.), saturated sodium hydrogen carbonate solution (2 × 40ml.), water (40ml.) and then saturated sodium chloride solution (40ml.). After drying (MgSO4), the extracts gave on evaporation in vacuo a yellow-brown oil. Purification by chromatography on silica gel (200g.) in a mixture of 50% v/v ether and 50% v/v petroleum ether (b.p 40°-60° C.), gave ethyl 1-(7-chloroquinazolin-4-yl)-5-hydroxy-2-methylindol-3-ylacetate as a pale yellow glass [NMR: 2-CH3 at 7.7 τ; pure by TLC (systems A, C and D)].

reactant | ethyl 5-benzyloxy-1-(7-chloroquinazolin-4-yl)-2-methylindol-3-ylacetate | 1.5g | C(C1=CC=CC=C1)OC=1C=C2C(=C(N(C2=CC1)C1=NC=NC2=CC(=CC=C12)Cl)C)CC(=O)OCC | C28H24ClN3O3
reactant | hydrogen bromide | Br | BrH
reactant | sodium acetate | 50ml | C(C)(=O)[O-].[Na+]
reactant | water | 150ml | O | H2O
solvent | acetic acid | 5ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5ml | C(C)(=O)O | C2H4O2
product | ethyl 1-(7-chloroquinazolin-4-yl)-5-hydroxy-2-methylindol-3-ylacetate | ClC1=CC=C2C(=NC=NC2=C1)N1C(=C(C2=CC(=CC=C12)O)CC(=O)OCC)C | C21H18ClN3O3
